US08859574B2
A mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (42 mg, 0.1 mmol), 3-isopropyl-5-(trichloromethyl)-1,2,4-oxadiazole (46 mg, 0.2 mmol) and DIEA (40 μL, 0.23 mmol) in MeOH (1 mL) was stirred at 70° C. overnight. The crude reaction mixture was purified by RP-HPLC to give (4-(4-(5-Chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)(3-isopropyl-1,2,4-oxadiazol-5-yl)methanone as a white solid; 1H NMR (400 MHz, CDCl3) δ 9.67 (br s, 2H), 8.50 (s, 1H), 8.07 (s, 1H), 7.57 (d, J=8.4 Hz, 1H), 7.05 (d, J=12.4 Hz, 1H), 6.16 (s, 1H), 5.53 (s, 1H), 3.98 (d, J=13.2 Hz, 1H), 3.34 (dt, J=2.0, 2.8 Hz, 1H), 3.15 (m, 1H), 2.82 (m, 2H), 2.62 (t, J=4.8 Hz, 2H), 2.34 (s, 3H), 2.25 9s, 3H), 1.90 (m, 2H), 1.76 (2H); ESMS m/z 554.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.1 mmol, 42 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | 3-isopropyl-5-(trichloromethyl)-1,2,4-oxadiazole | 0.2 mmol, 46 mg | C(C)(C)C1=NOC(=N1)C(Cl)(Cl)Cl | C6H7Cl3N2O
reactant | DIEA | 0.23 mmol, 40 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | MeOH | 1 mL | CO | CH4O
product | (4-(4-(5-Chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)(3-isopropyl-1,2,4-oxadiazol-5-yl)methanone | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1F)C1CCN(CC1)C(=O)C1=NC(=NO1)C(C)C)C)NC1=NNC(=C1)C | C26H29ClFN9O2
